US04876284
Example E8. cis-N-Allyl-5-hydroxy-1-methyl-2-(n-propylamino)tetralin hydrochloride
The intermediate cis-N-allyl-5-methoxy-1-methyl-2-(n-propylamino) tetralin hydrochloride (20 mg; 0.68 mmol) was dissolved in CHCl3 (2 ml) and added during 2 minutes to a well-stirred solution of BBr3 (1.10 g; 4.39 mmol) in CHCl3 (13 ml) maintained in the temperature range 23°-26° C. The stirring was continued for 15 minutes at 20° C. The reaction mixture was poured into a well-stirred mixture of ice (6 g) and concentrated NH4OH (1.5 ml). The two-phase system was kept at 0° for 30 minutes with continuous stirring. The system was separated and the organic phase was dried and evaporated. The desired oily product was precipitated as a hydrochloride salt and was recrystallized from CHCl3 /ether.

reactant | cis-N-allyl-5-methoxy-1-methyl-2-(n-propylamino) tetralin hydrochloride | 0.68 mmol, 20 mg | Cl.C(C=C)N([C@@H]1[C@@H](C2=CC=CC(=C2CC1)OC)C)CCC
reactant | BBr3 | 4.39 mmol, 1.10 g | B(Br)(Br)Br | BBr3
reactant | NH4OH | 1.5 ml | [NH4+].[OH-]
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 13 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-N-Allyl-5-hydroxy-1-methyl-2-(n-propylamino)tetralin hydrochloride | Cl.C(C=C)N([C@@H]1[C@@H](C2=CC=CC(=C2CC1)O)C)CCC | InChI=1S/C17H25NO.ClH/c1-4-11-18(12-5-2)16-10-9-15-14(13(16)3)7-6-8-17(15)19;/h4,6-8,13,16,19H,1,5,9-12H2,2-3H3;1H/t13-,16+;/m1./s1
